US04329347
6-(4-Phenylsulfinyl-butoxy)-3,4-dihydro-carbostyril
32.6 gm (0.2 mol) of 6-hydroxy-3,4-dihydro-carbostyril [see F. F. Mayer et al., Ber. Dtsch. Chem. Ges. 60, 858 (1927)] and 27.6 gm (0.2 mol) of potassium carbonate were stirred for 5 minutes in 600 ml of dimethylsulfoxide which had been dried over a molecular sieve, and then 52.2 gm of 4-phenylsulfinyl-butyl bromide (0.2 mol) (prepared from thiophenol and 1,4-dibromo-butane and subsequent oxidation with hydrogen peroxide in glacial acetic acid analogous to Example 2; oily substance, solidified upon standing in the refrigerator) were added. After stirring it for 15 hours at 25° C., the reaction mixture was poured into 6 liters of water. After stirring the aqueous mixture for 30 minutes more, the precipitated product was suction-filtered off and thoroughly washed with water. After drying, the filter cake was recrystallized from about 600 ml of xylene in the presence of charcoal. White crystals with a melting point of 144.5°-145.5° C. were obtained.

reactant | 6-hydroxy-3,4-dihydro-carbostyril | 0.2 mol, 32.6 gm | OC=1C=C2CCC(NC2=CC1)=O | C9H9NO2
reactant | potassium carbonate | 0.2 mol, 27.6 gm | C([O-])([O-])=O.[K+].[K+]
reactant | 4-phenylsulfinyl-butyl bromide | 0.2 mol, 52.2 gm | C1(=CC=CC=C1)S(=O)CCCCBr | C10H13BrOS
reactant | thiophenol | C1(=CC=CC=C1)S | C6H6S
reactant | 1,4-dibromo-butane | BrCCCCBr | C4H8Br2
reactant | hydrogen peroxide | OO | H2O2
solvent | dimethylsulfoxide | 600 ml | CS(=O)C | C2H6OS
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | 6 liters | O | H2O
product | 6-(4-Phenylsulfinyl-butoxy)-3,4-dihydro-carbostyril | C1(=CC=CC=C1)S(=O)CCCCOC=1C=C2CCC(NC2=CC1)=O | C19H21NO3S
